US07696374B2
4-Methoxyphenyl 4-phenyloxybenzylcarbamate
The procedure is carried out in a manner similar to Example 4, replacing the 4-phenylbenzylamine with 4-phenyloxybenzylamine and the 4-fluorophenyl chloroformate with 4-methoxyphenyl chloroformate.

reactant | 4-phenyloxybenzylamine | C1(=CC=CC=C1)OC1=CC=C(CN)C=C1 | C13H13NO
reactant | 4-fluorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)F | C7H4ClFO2
reactant | 4-methoxyphenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC | C8H7ClO3
product | 4-Methoxyphenyl 4-phenyloxybenzylcarbamate | C1(=CC=CC=C1)OC1=CC=C(CNC(OC2=CC=C(C=C2)OC)=O)C=C1 | C21H19NO4
